US08686044B2
Preparation of N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-3-(methylamino)benzamide
To 10 mL of DMF were added 0.350 g (0.560 mmol) of N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-iodo-3-(methylamino)benzamide and 0.200 g (2.25 mmol) of copper (I) cyanide, followed by stirring at 140° C. for 1 hour and 30 minutes. A saturated aqueous sodium thiosulfate solution was poured into the reaction solution to quench the reaction, and the organic layer was collected with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=5:1→3:1) to prepare 0.250 g (yield 86%) of a target compound.

reactant | N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-iodo-3-(methylamino)benzamide | 0.560 mmol, 0.350 g | ClC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=CC(=C(C=C1)I)NC)=O | C18H10ClF10IN2O
reactant | copper (I) cyanide | 2.25 mmol, 0.200 g | [Cu]C#N
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(2-chloro-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-cyano-3-(methylamino)benzamide | 0.250 g, yield 86% | ClC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=CC(=C(C=C1)C#N)NC)=O | C19H10ClF10N3O
